US08372874B2
Step 7: Synthesis of N-{3-[2-(2-Methoxy-ethoxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(3,3,3-trifluoro-propane-1-sulfonyl)-propionamide
To a solution of NaH (60% in mineral oil; 11.0 mg; 0.284 mmol) in anhydrous THF (2.0 mL) is added N-[3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(3,3,3-trifluoro-propane-1-sulfonyl)-propionamide (50.0 mg; 0.129 mmol). The reaction is stirred at room temperature for 15 minutes and then 1-bromo-2-methoxy-ethane (0.037 mL, 0.387 mmol) is added. The reaction is stirred at 50° C. for 6 h and monitored by LC MS. Additional NaH (60% in mineral oil; 0.011 g; 0.284 mmol) and 1-bromo-2-methoxy-ethane (0.037 mL; 0.387 mmol) is added and the reaction is stirred overnight at room temperature. The crude mixture is diluted with water and extracted with ethyl acetate. The combined organics are dried over sodium sulfate, filtered and concentrated under reduced pressure. The title compound is obtained after purification by prep HPLC to afford 8 mg. Yield 14%. ESI m/z 445[M+H].

reactant | NaH | 0.284 mmol, 11.0 mg | [H-].[Na+]
reactant | N-[3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]-2-methyl-2-(3,3,3-trifluoro-propane-1-sulfonyl)-propionamide | 0.129 mmol, 50.0 mg | OCC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)CCC(F)(F)F)C)=O | C14H21F3N2O5S
reactant | 1-bromo-2-methoxy-ethane | 0.387 mmol, 0.037 mL | BrCCOC | C3H7BrO
reactant | NaH | 0.284 mmol, 0.011 g | [H-].[Na+]
reactant | 1-bromo-2-methoxy-ethane | 0.387 mmol, 0.037 mL | BrCCOC | C3H7BrO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{3-[2-(2-Methoxy-ethoxy)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(3,3,3-trifluoro-propane-1-sulfonyl)-propionamide | Yield 14% | COCCOCC(C)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)CCC(F)(F)F)C)=O | C17H27F3N2O6S
